US06921753B2
(2S,3S,4R,5R)-5-{2-Cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide
A solution of (2S,3S,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 7) (4.75 g, 6.59 mmol) in ethanol (200 ml) was saturated with ammonia gas and stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (95:5 by volume) gradually changing to dichloromethane:methanol (90:10 by volume) to afford the title compound as a solid (2.80 g).

reactant | (2S,3S,4R,5R)-4-(benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 6.59 mmol, 4.75 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N)C(=O)NCC | C41H35N7O6
reactant | ammonia | N | H3N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (2S,3S,4R,5R)-5-{2-Cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-N-ethyl-3,4-dihydroxytetrahydro-2-furancarboxamide | 2.80 g | C(#N)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)C(=O)NCC)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27N7O4
